US04322437
5.6 g of 4'-methoxy-spiro(cyclohexane-1,2'-indan)-1'-one in 80 ml acetic acid and 20 ml 48% (w/w) aqueous hydrogen bromide are refluxed for 20 hours. The mixture is evaporated, diluted with water and extracted with ether. Evaporation of the solvent yields 4'-hydroxy-spiro(cyclohexane-1,2'-indan)-1'-one; M.Pt. 162°-164° (from ethanol).

reactant | 4'-methoxy-spiro(cyclohexane-1,2'-indan)-1'-one | 5.6 g | COC1=C2CC3(C(C2=CC=C1)=O)CCCCC3 | C15H18O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen bromide | 20 ml | Br | BrH
product | 4'-hydroxy-spiro(cyclohexane-1,2'-indan)-1'-one | OC1=C2CC3(C(C2=CC=C1)=O)CCCCC3 | C14H16O2
